US05478842
Using an analogous procedure to that described in Example 6, 7-fluoro-6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one was reacted with (2S,4R)-4-hydroxy-4-(3-iodophenyl)-2-methyltetrahydropyran to give (2S,4R)-4-[3-(7-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran in 55% yield, m.p. 90-92° C. (recrystallised from diethyl ether);

reactant | 7-fluoro-6-mercapto-1-methyl-1,2,3,4-tetrahydroquinolin-2-one | FC1=C(C=C2CCC(N(C2=C1)C)=O)S | C10H10FNOS
reactant | (2S,4R)-4-hydroxy-4-(3-iodophenyl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)I | C12H15IO2
product | (2S,4R)-4-[3-(7-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran | 55% yield | FC1=C(C=C2CCC(N(C2=C1)C)=O)SC=1C=C(C=CC1)[C@@]1(C[C@@H](OCC1)C)O | C22H24FNO3S
